* Headgames nominal LM324-N / LM358-N compatibility model for ngspice.
*
* Scope: 9 V, VREF-centered, low-frequency linear operation. Parameters are
* nominal TI datasheet values rather than a translation of TI's PSpice model.
* This deliberately does not model ESD, phase reversal, short circuits,
* temperature extremes, or out-of-range overload behavior.
*
* Pins: IN+ IN- VCC VEE OUT
.subckt HG_LMX24_LMX58_NOMINAL INP INM VCC VEE OUT

* Nominal input impedance and bias balance: 45 nA mean, 5 nA mismatch.
RDIFF INP INM 10MEG
RCMP INP VEE 4G
RCMM INM VEE 4G
IBP INP VEE DC 42.5N
IBM INM VEE DC 47.5N

* Nominal 2 mV input offset followed by 100 dB open-loop gain.
VOS INP INP_OS DC 2M
EGAIN GAIN_RAW VEE INP_OS INM 100K

* 10 Hz dominant pole gives approximately 1 MHz unity-gain bandwidth.
RDOM GAIN_RAW DOM 100K
CDOM DOM VEE 159.154943N

* Light-load output resistance. Rail/current limits are checked separately by
* the frontier because a hard behavioral clamp invalidates AC linearization.
EOUT OUT_INT VEE DOM VEE 1
ROUT OUT_INT OUT 50
.ends HG_LMX24_LMX58_NOMINAL
